US06541423B1
1.9 4-Methylbenzothiazole-5-carboxylic Acid
16.6 g of methyl 4-methylbenzothiazole-5-carboxylate (0.08 mol) were dissolved in 280 ml of 5% strength aqueous potassium hydroxide solution and heated at reflux for 2.5 h. After cooling, the mixture was acidified using phosphoric acid. The product was filtered off and subsequently dried.

reactant | methyl 4-methylbenzothiazole-5-carboxylate | 0.08 mol, 16.6 g | CC1=C(C=CC2=C1N=CS2)C(=O)OC | C10H9NO2S
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | potassium hydroxide | [OH-].[K+]
product | 4-Methylbenzothiazole-5-carboxylic Acid | CC1=C(C=CC2=C1N=CS2)C(=O)O | C9H7NO2S
